US09216967B2
4-[(5-nitro-2-pyridinyl)oxy]-3-(trifluoromethyl)benzonitrile
A mixture of 2-chloro-5-nitropyridine (70 mg, 0.44 mmol), 4-hydroxy-3-(trifluoromethyl)benzonitrile (91 mg, 0.49 mmol), K2CO3 (92 mg, 0.66 mmol) in DMF (2 mL) was stirred at 50° C. overnight. Water (4 mL) was added and a precipitate was formed. The solid was filtered-off and it was triturated with MeOH to give the title compound (85 mg) as a brownish solid.

reactant | 2-chloro-5-nitropyridine | 0.44 mmol, 70 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 4-hydroxy-3-(trifluoromethyl)benzonitrile | 0.49 mmol, 91 mg | OC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H4F3NO
reactant | K2CO3 | 0.66 mmol, 92 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | 4 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-[(5-nitro-2-pyridinyl)oxy]-3-(trifluoromethyl)benzonitrile | 85 mg | [N+](=O)([O-])C=1C=CC(=NC1)OC1=C(C=C(C#N)C=C1)C(F)(F)F | C13H6F3N3O3
